US05231102
Step b: Trans-2-carboxy-5,7-dichloro-4-(2-carboxyethyl)carbonylamino-1,2,3,4-tetrahydroquinoline
This compound was prepared by the method given for Example 36, step b, using trans-2-methoxycarbonyl-5,7-dichloro-4(2-carboxyethyl)carbonylamino-1,2,3,4-tetrahydroquinoline in place of trans-2-methoxycarbonyl-5,7-dichloro-4-butylcarbonylamino-1,2,3,4-tetrahydroquinoline to give the title compound as colourless crystals, m.p. 221°-223° C. δ DMSO, 360 MHz) 1.59 (1H, ddd, J=13.2, 12.9 and 3.8 Hz, CHACHBHCCHD), 2.15 (1H, dm, J=13.2 Hz, CHACHBHCCHD), 2.31 (2H, t, J=6.7 Hz, COCHE2CHF2CO), 2.41-2.45 (2H, m, COCHE2CHF2), 3.83 (1H, dd, J=12.5 and 2.6 Hz, CHACHBHCCHD), 5.01 (1H, m, CHACHBHCCHD), 6.64 (1H, d, J=2.0 Hz, 6-H or 8 -H), 6.75 (1H, br s, ArNHCH), 6.87 (1H, d, J=2.0 Hz, 6-H or 8-H), 8.16 (1H, d, J=7.2 Hz, NHCO); m/e 342 (M-H2O), 198 (100% M-NHCO(CH2)2CO2H, CO2H,H); Found C, 46.59; H, 4.02; N, 7.57; C14H14Cl2N2O5 requires C, 46.56; H, 3.91; N, 7.76%.

reactant | trans-2-methoxycarbonyl-5,7-dichloro-4(2-carboxyethyl)carbonylamino-1,2,3,4-tetrahydroquinoline | COC(=O)[C@@H]1NC2=CC(=CC(=C2[C@H](C1)NC(=O)CCC(=O)O)Cl)Cl | C15H16Cl2N2O5
solvent | DMSO | CS(=O)C | C2H6OS
product | Trans-2-carboxy-5,7-dichloro-4-(2-carboxyethyl)carbonylamino-1,2,3,4-tetrahydroquinoline | C(=O)(O)[C@@H]1NC2=CC(=CC(=C2[C@H](C1)NC(=O)CCC(=O)O)Cl)Cl | C14H14Cl2N2O5
